US05977178
2-(tert-Butoxycarbonylamino)-1,1-dimethylethyl acetate (508 mg, 2.2 mmol) was dissolved in ethyl acetate (6 ml). 3 M hydrogen chloride in ethyl acetate (4 ml, 12 mmol) was added. The reaction mixture was stirred for 20 h at room temperature. The precipitation was filtered off and washed with diethyl ether (50 ml). It was dried in vacuo to give 246 mg of 2-amino-I,1-dimethylethyl acetate hydrochloride.

reactant | 2-(tert-Butoxycarbonylamino)-1,1-dimethylethyl acetate | 2.2 mmol, 508 mg | C(C)(=O)OC(CNC(=O)OC(C)(C)C)(C)C | C11H21NO4
reactant | hydrogen chloride | 3 M | Cl | ClH
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 12 mmol, 4 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-I,1-dimethylethyl acetate hydrochloride | 246 mg | Cl.C(C)(=O)OC(CN)(C)C | InChI=1S/C6H13NO2.ClH/c1-5(8)9-6(2,3)4-7;/h4,7H2,1-3H3;1H
